US07977500B2
Biotinyl-L-Lysine:
and 6-(biotinamidocaproylamido) caproic acid N-hydroxysuccinimide ester (Sigma-Aldrich, product B3295), biotinamidocaproate-N-hydroxysuccinimide ester (Sigma-Aldrich, product B2643), biotinamidocaproic acid 3-sulfo-N-hydroxysuccinimide ester (Sigma-Aldrich, product B1022) and biotin-maleimide (Sigma-Aldrich, product B1267).

reactant | 6-(biotinamidocaproylamido) caproic acid N-hydroxysuccinimide ester | C1CC(=O)N(C1=O)OC(=O)CCCCCNC(=O)CCCCCNC(=O)CCCC[C@H]2[C@@H]3[C@H](CS2)NC(=O)N3 | C26H41N5O7S
reactant | biotin-maleimide | C1(C=CC(N1)=O)=O.OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12
product | Biotinyl-L-Lysine | C(CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12)(=O)N[C@@H](CCCCN)C(=O)O | C16H28N4O4S
